US05374604
Benzyl alcohol (5.1 g; 0.05 mols) was reacted with 2,6-dichloropyridine (3.5 g; 0.024 mols) utilizing sodium hydride (1.2 g) and, as solvent, dimethylformamide by the procedure of Example 1 above. Usual work up, chromatography and recrystallisation gave 2,6-dibenzyloxypyridine as a colorless solid (5.5 g; 81%). Melting point: 74° C.

reactant | Benzyl alcohol | 0.05 mols, 5.1 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 2,6-dichloropyridine | 0.024 mols, 3.5 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | sodium hydride | 1.2 g | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2,6-dibenzyloxypyridine | C(C1=CC=CC=C1)OC1=NC(=CC=C1)OCC1=CC=CC=C1 | C19H17NO2
